US08535655B2
a) 3-hydroxypropyl 2-propylpentanoate
2-propylpentanoic acid (10.0 g, 69.3 mmol) was mixed with propane-1-3-diol (42.1 g, 555.0 mmol) and methyl-sulfonic acid (5 drops) in toluene (200 ml) and the mixture was heated under reflux using a Dean Stark trap for 12 h. After that, toluene was removed under reduced pressure and the crude mixture was dissolved in dichloromethane (200 ml) and extracted with water (pH 5, 3×200 ml). The combined organic layers were dried over sodium sulfate and the volatiles were removed under reduced pressure giving a clear oil (14.0 g, 60.0 mmol, 99%).

reactant | 2-propylpentanoic acid | 69.3 mmol, 10.0 g | C(CC)C(C(=O)O)CCC | C8H16O2
reactant | propane-1-3-diol | 555.0 mmol, 42.1 g | C(CCO)O | C3H8O2
catalyst | methyl-sulfonic acid | 5 drops | CS(=O)(=O)O | CH4O3S
solvent | toluene | 200 ml | C1(=CC=CC=C1)C | C7H8
product | 3-hydroxypropyl 2-propylpentanoate | 60.0 mmol, 14.0 g, 99% | C(CC)C(C(=O)OCCCO)CCC | C11H22O3
